US04820773
20 kg. of acrylic acid and 6 kg. of acrylamide are dissolved in 9.5 kg. of distilled water and the acrylic acid is partially neutralized with 12 kg. of KOH. 0.036 kg. of methylenebisacrylamide as a polyvinyl monomer was added as well as 4 kg. of styrene-maleic anhydride resin (3:1 ratio) to provide an aqueous mixed monomer solution. The mixed monomer solution is mixed with 0.28 kg. of 2,2'-azobisisobutyronitrile, dissolved in 2 kg. of acetone as a polymerization initiator. This mixture at a temperature of 60° C. is transferred on an endless belt (600-700 mm. in width, and 7 m. in length) at a thickness of about 1 cm. The polymerization is initiated promptly on the belt resulting in a solid resin.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | KOH | [OH-].[K+]
reactant | methylenebisacrylamide | C(C=CC(=O)N)C=CC(=O)N | C7H10N2O2
solvent | water | O | H2O
product | styrene-maleic anhydride resin | C=CC1=CC=CC=C1.C1=CC(=O)OC1=O | InChI=1S/C8H8.C4H2O3/c1-2-8-6-4-3-5-7-8;5-3-1-2-4(6)7-3/h2-7H,1H2;1-2H
